US05124350
Ethyl 3,4-dihydro-7-(3-iodopropoxy)-8-propyl-2H-1-benzopyran-2-propanoate
Ethyl 7-(3-chloropropoxy)-3,4-dihydro-8-propyl-2H-1-benzopyran-2-propanoate (3.2 g, 9.042 mmol) and sodium iodide (13.6 g, 9.042 mmol) were added to 200 ml of methyl ethyl ketone and the reaction mixture was heated to reflux overnight. The solvent was removed under vacuum and 100 ml of water was added. The solution was extracted 3 times with ethyl acetate. The combined extracts were dried and filtered, and the solvent was removed under vacuum to give the product as a brown oil.

reactant | Ethyl 7-(3-chloropropoxy)-3,4-dihydro-8-propyl-2H-1-benzopyran-2-propanoate | 9.042 mmol, 3.2 g | ClCCCOC1=C(C2=C(CCC(O2)CCC(=O)OCC)C=C1)CCC | C20H29ClO4
reactant | sodium iodide | 9.042 mmol, 13.6 g | [I-].[Na+]
solvent | methyl ethyl ketone | 200 ml | C(C)C(=O)C | C4H8O
product | Ethyl 3,4-dihydro-7-(3-iodopropoxy)-8-propyl-2H-1-benzopyran-2-propanoate | ICCCOC1=C(C2=C(CCC(O2)CCC(=O)OCC)C=C1)CCC | C20H29IO4
